US06638977B1
4-(3-Bromobenzyloxy)-3,5-diiodo-benzoic Acid 3-bromobenzyl Ester
A suspension of 3,5-diiodo-4-hydroxybenzoic acid (0.39 g, 1.0 mmol), 3-bromobenzyl bromide (0.62 g, 2.5 mmol), and cesium carbonate (0.98 g, 3.0 mmol) in 10 mL DMF was stirred for 15 hours at room temperature. The mixture was then poured into 1 M HCl (100 mL) and a white precipitate formed. The precipitate was isolated by vacuum filtration and was recrystallized from hot isopropanol/chloroform, yielding the title compound as bright white crystals (610 mg, 84%); 1H NMR (CDCl3) δ 8.48 (s, 2H), 7.80 (br. s, 1H), 7.58-7.49 (m, 4H), 7.38-7.28 (m, 3H), 5.31 (s, 2H), 5.01 (s, 2H).

reactant | 3,5-diiodo-4-hydroxybenzoic acid | 1.0 mmol, 0.39 g | IC=1C=C(C(=O)O)C=C(C1O)I | C7H4I2O3
reactant | 3-bromobenzyl bromide | 2.5 mmol, 0.62 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | cesium carbonate | 3.0 mmol, 0.98 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1 M, 100 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(3-Bromobenzyloxy)-3,5-diiodo-benzoic Acid 3-bromobenzyl Ester | 610 mg, 84% | BrC=1C=C(COC(C2=CC(=C(C(=C2)I)OCC2=CC(=CC=C2)Br)I)=O)C=CC1 | C21H14Br2I2O3
